US05703113
1.52 g (10.0 mmoles) of resacetophenone are dissolved in 1.20 g (14.0 mmoles) of diethyl ketone, then 1.42 g (20.0 mmoles) pyrrolidine [prepared according to the method of H. J. Kabbe in Synthesis, 886 (1978)] are added thereto. The reaction mixture is allowed to stand at room temperature for 24 hours, then 40 ml of toluene are added. The reaction mixture is boiled under reflux for 10 hours by using a water separator. Then it is cooled back, washed subsequently with 10% hydrochloric acid and water, thereafter it is dried and evaporated to obtain 1.41 g of 2,2-diethyl-7-hydroxy-4-chromanone in the form of a pale yellow viscous oil which crystallizes on standing.

reactant | resacetophenone | 10.0 mmoles, 1.52 g | CC(=O)C1=C(C=C(C=C1)O)O | C8H8O3
reactant | diethyl ketone | 14.0 mmoles, 1.20 g | C(C)C(=O)CC | C5H10O
reactant | pyrrolidine | 20.0 mmoles, 1.42 g | N1CCCC1 | C4H9N
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,2-diethyl-7-hydroxy-4-chromanone | 1.41 g | C(C)C1(OC2=CC(=CC=C2C(C1)=O)O)CC | C13H16O3
